US07981903B2
A mixture of 2-({2-{[1-(N,N-dimethylglycyl)-6-methyl-1,2,3,4-tetrahydro-7-quinolinyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide (414 mg, 0.617 mmol) and a 1N aqueous KOH solution (6.17 mL, 6.17 mmol) in dioxane (20 mL) was heated at 80° C. for 17 h. EtOAc (50 mL) and a saturated NaHCO3 solution (50 mL) were added. The organic layer was washed with a saturated NaCl solution (50 mL), concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2 to afford 2-[(2-{[1-(N,N-dimethylglycyl)-6-methyl-1,2,3,4-tetrahydro-7-quinolinyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide as a white solid (237 mg, 74%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.82-1.96 (m, 2H), 2.12 (s, 6H), 2.17 (s, 3H), 2.70 (t, J=6.50 Hz, 2H), 3.17 (s, 2H), 3.72 (t, J=6.04 Hz, 2H), 6.19 (dd, H=3.39, 1.92 Hz, 1H), 6.82-6.91 (m, 1H), 6.93 (dd, J=3.39, 2.29 Hz, 1H), 7.00 (s, 1H), 7.19-7.30 (m, 1H), 7.78 (br s, 1H), 8.00 (s, 1H), 8.09 (s, 1H), 8.11 (s, 1H), 8.47 (d, J=8.61 Hz, 1H), 10.54 (s, 1H), 11.24 (s, 1H); ESIMS (M+H)+=517.26.

reactant | 2-({2-{[1-(N,N-dimethylglycyl)-6-methyl-1,2,3,4-tetrahydro-7-quinolinyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide | 0.617 mmol, 414 mg | CN(CC(=O)N1CCCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C(=CC=C2)F)C)C | C34H35FN8O4S
reactant | KOH | 6.17 mmol, 1N, 6.17 mL | [OH-].[K+]
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-[(2-{[1-(N,N-dimethylglycyl)-6-methyl-1,2,3,4-tetrahydro-7-quinolinyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide | 237 mg, 74% | CN(CC(=O)N1CCCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)N)C(=CC=C2)F)C)C | C27H29FN8O2
